US07411072B2
5-(2-Fluoro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 28 and using 2-fluoro-3-methoxybenzaldehyde (2.4 g, 15.4 mmol) and dibenzosuberane (3.0 g, 15.4 mmol), provides 1.5 g of title compound as white crystals. mp 148.9° C. HPLC shows 96% purity.

reactant | 2-fluoro-3-methoxybenzaldehyde | 15.4 mmol, 2.4 g | FC1=C(C=O)C=CC=C1OC | C8H7FO2
reactant | dibenzosuberane | 15.4 mmol, 3.0 g | C1CC2=CC=CC=C2CC3=CC=CC=C31 | C15H14
product | 5-(2-Fluoro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.5 g | FC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1OC | C23H19FO
